US09056843B2
Intermediate 3a: (4-cyano-phenyl)-acetic acid methylester
Thionyl chloride (1.1 mL, 15.07 mmol) was added to cool MeOH (70 mL) at 0° C. After 5 min 2-(4-cyanophenyl)acetic acid (1 g, 6.21 mmol) was added. After 30 min, cooling was removed and the mixture stirred for 21 h at RT. The solvent was removed and toluene was added and evaporated 3 times to give a sticky yellow solid. The product was used crude for the next step.

reactant | Thionyl chloride | 15.07 mmol, 1.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-cyanophenyl)acetic acid | 6.21 mmol, 1 g | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | MeOH | 70 mL | CO | CH4O
product | (4-cyano-phenyl)-acetic acid methylester | COC(CC1=CC=C(C=C1)C#N)=O | C10H9NO2
